US03975384
6-Neopentyloxy-5-nitro-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimidine
4.5 gm (0.011 mol) of 6-neopentyloxy-5-nitro-2-piperazino-4-thiomorpholino-pyrimidine were suspended in a mixture of 60 ml of water and 11.4 ml (0.022 mol) of 2 N hydrochloric acid. 1.66 gm (0.011 mol) of 30% hydrogen peroxide were added to the suspension, and the mixture was stirred for 24 hours at room temperature, whereby a clear solution was obtained. The solution was made alkaline by careful addition of 12 ml of 2 N sodium hydroxide, and the yellow precipitate formed thereby was suction-filtered off, washed with water and recrystallized from a mixture of 30 ml of methanol and 20 ml of water. Yield: 2.4 gm (51.2% of theory); m.p. 156°-158°C.

reactant | 6-neopentyloxy-5-nitro-2-piperazino-4-thiomorpholino-pyrimidine | 0.011 mol, 4.5 gm | C(C(C)(C)C)OC1=C(C(=NC(=N1)N1CCNCC1)N1CCSCC1)[N+](=O)[O-] | C17H28N6O3S
reactant | hydrochloric acid | 0.022 mol, 2 N, 11.4 ml | Cl | ClH
reactant | hydrogen peroxide | 0.011 mol, 1.66 gm | OO | H2O2
reactant | sodium hydroxide | 2 N, 12 ml | [OH-].[Na+]
solvent | water | 60 ml | O | H2O
product | 6-Neopentyloxy-5-nitro-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimidine | C(C(C)(C)C)OC1=C(C(=NC(=N1)N1CCNCC1)N1CCS(CC1)=O)[N+](=O)[O-] | C17H28N6O4S
